US06828320B2
4-Chloro-7-(5-methyl-[1,3,4]oxadiazol-2-yl)quinazoline
7-(5-Methyl-[1,3,4]oxadiazol-2-yl)quinazolin-4-one (0.09 g) was treated with phosphorous oxychloride (5 ml) at reflux under nitrogen for 2 hours. The mixture was cooled, evaporated and partitioned between saturated aqueous sodium carbonate and ethyl acetate. The organic phase was dried, concentrated in vacuo to give the title compound which was used crude in the subsequent synthetic step.

reactant | 7-(5-Methyl-[1,3,4]oxadiazol-2-yl)quinazolin-4-one | 0.09 g | CC1=NN=C(O1)C1=CC=C2C(NC=NC2=C1)=O | C11H8N4O2
reactant | phosphorous oxychloride | 5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-7-(5-methyl-[1,3,4]oxadiazol-2-yl)quinazoline | ClC1=NC=NC2=CC(=CC=C12)C=1OC(=NN1)C | C11H7ClN4O
